US05725840
3-(Chloromethoxycarbonyl) Cholesterol
Chloromethyl chloroformate (1.96 g, 15.2 mmol) and cholesterol (5.0 g, 12.9 mmol) was dissolved in CH2Cl2 (10 ml). The solution was cooled. Pyridine (1.21 g, 15.3 mmol) was dripped into the stirred solution over 5 minutes. Heat was produced and the reaction gave a clear solution from a somewhat unclear starting solution. After 24 hours at room temperature, the mixture was diluted with CH2Cl2 (50 ml), washed with 0.5M HCl (50 ml) and water (3×25 ml). After treatment with MgSO4, the solution was evaporated to dryness.

reactant | Chloromethyl chloroformate | 15.2 mmol, 1.96 g | ClC(=O)OCCl | C2H2Cl2O2
reactant | cholesterol | 12.9 mmol, 5.0 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | Pyridine | 15.3 mmol, 1.21 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(Chloromethoxycarbonyl) Cholesterol | ClCOC(=O)[C@]1(CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C29H47ClO3
